US05362727
a) (S)-2-Phthalimido-6-hydroxyhexanoic acid
A solution of (+)-L-ε-hydroxynorleucine [prepared according to the procedure of Bodanszky et al., J. Med Chem., 1978, 21, 1030-1035](1.030 g., 7.0 mmol.) and sodium carbonate (745 mg., 7.0 mmol.) in water (12 mL) was treated with N-carbethoxyphthalimide (1.495 g., 7.0 mmol.) and the mixture was stirred at room temperature for 2 hours. The solution was filtered, cooled to 0° C., and acidified with 6N hydrochloric acid to afford a white precipitate. The solid was collected by filtration and dried in vacuo at 80° C. for 1 hour to give 1.297 g. of the title compound; m.p. 162°-163° C.; [α]D =-35.7° (c=1.3, methanol).

reactant | sodium carbonate | 7.0 mmol, 745 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-carbethoxyphthalimide | 7.0 mmol, 1.495 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | water | 12 mL | O | H2O
product | (S)-2-Phthalimido-6-hydroxyhexanoic acid | C1(C=2C(C(N1[C@H](C(=O)O)CCCCO)=O)=CC=CC2)=O | C14H15NO5
